**
.include TSMC_180nm.txt

.option scale=0.09u
.global Gnd

*capacitor
Cout output gnd 1.5f

*sources
V1  drain gnd dc 1
VA  A gnd pulse 1 0 0 0.1n 0.1n 40n 80n
VB  B gnd pulse 0 1 0 0.1n 0.1n 80n 160n 

***
* pulse(V1 V2 TD TR TF PW PER
* V1 = the initial amplitude
* V2 = the pulse amplitude
* TD = the delay time in seconds
* TR = the rise time in seconds
* TF = the fall time in seconds
* PW = the pulse width in seconds
* PER = the period in seconds
***

M1000 a_1_83# A drain w_n19_77# CMOSP w=8 l=5
+  ad=184 pd=62 as=736 ps=312
M1001 a_n80_8# A drain w_n100_2# CMOSP w=8 l=5
+  ad=184 pd=62 as=0 ps=0
M1002 a_1_83# a_n80_8# a_1_34# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=207 ps=64
M1003 drain a_1_n77# output w_67_n1# CMOSP w=8 l=5
+  ad=0 pd=0 as=184 ps=62
M1004 drain a_n80_8# a_1_n77# w_n19_n83# CMOSP w=8 l=5
+  ad=0 pd=0 as=184 ps=62
M1005 drain B a_n80_8# w_n100_2# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1006 drain a_n80_8# a_1_83# w_n19_77# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1007 a_1_n126# B Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=504 ps=184
M1008 output a_1_83# drain w_67_n1# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1009 a_1_34# A Gnd Gnd CMOSN w=9 l=5
+  ad=0 pd=0 as=0 ps=0
M1010 a_n80_8# B a_n80_n41# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=207 ps=64
M1011 a_n80_n41# A Gnd Gnd CMOSN w=9 l=5
+  ad=0 pd=0 as=0 ps=0
M1012 a_1_n77# a_n80_8# a_1_n126# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
M1013 a_1_n77# B drain w_n19_n83# CMOSP w=8 l=5
+  ad=0 pd=0 as=0 ps=0
M1014 a_87_n44# a_1_83# Gnd Gnd CMOSN w=9 l=5
+  ad=207 pd=64 as=0 ps=0
M1015 output a_1_n77# a_87_n44# Gnd CMOSN w=9 l=5
+  ad=135 pd=48 as=0 ps=0
C0 a_n80_8# B 0.20fF
C1 w_n100_2# A 0.12fF
C2 drain a_1_83# 0.33fF
C3 a_n80_8# a_1_n77# 0.20fF
C4 w_n100_2# a_n80_8# 0.03fF
C5 Gnd B 0.18fF
C6 w_n19_n83# drain 0.08fF
C7 w_n19_n83# B 0.12fF
C8 w_n19_77# A 0.12fF
C9 Gnd a_1_n77# 0.20fF
C10 w_67_n1# a_1_83# 0.12fF
C11 w_n19_n83# a_1_n77# 0.03fF
C12 w_n19_77# a_n80_8# 0.12fF
C13 w_n19_77# a_1_83# 0.03fF
C14 drain w_n100_2# 0.08fF
C15 w_n100_2# B 0.12fF
C16 drain w_67_n1# 0.08fF
C17 a_1_n77# output 0.20fF
C18 a_n80_8# a_1_83# 0.20fF
C19 w_67_n1# a_1_n77# 0.12fF
C20 w_n19_77# drain 0.19fF
C21 a_n80_8# Gnd 0.18fF
C22 w_67_n1# output 0.03fF
C23 drain A 0.29fF
C24 w_n19_n83# a_n80_8# 0.12fF
C25 drain a_n80_8# 0.18fF
C26 output Gnd 0.45fF
C27 a_1_n77# Gnd 1.85fF
C28 B Gnd 1.41fF
C29 Gnd Gnd 5.54fF
C30 a_1_83# Gnd 1.39fF
C31 a_n80_8# Gnd 0.44fF
C32 A Gnd 1.43fF
C33 drain Gnd 0.40fF
C34 w_n19_n83# Gnd 1.37fF
C35 w_67_n1# Gnd 1.37fF
C36 w_n100_2# Gnd 1.37fF
C37 w_n19_77# Gnd 1.37fF

.tran 0.01us 1us

*Control 
.control

run
plot v(A) v(output)+2 v(B)+4

***
meas tran delay_a_lh
+trig v(a) val =0.5 rise=1 targ v(output) val =0.5 fall =1
meas tran delay_a_hl
+trig v(a) val =0.5 fall=1 targ v(output) val =0.5 rise =1

meas tran delay_b_lh
+trig v(b) val =0.5 rise=1 targ v(output) val =0.5 fall =1
meas tran delay_b_hl
+trig v(b) val =0.5 fall=1 targ v(output) val =0.5 rise =1

echo delay_a_lh: "$&delay_a_lh" 
echo delay_a_hl: "$&delay_a_hl" 
echo delay_b_lh: "$&delay_b_lh" 
echo delay_b_hl: "$&delay_b_hl"

.endc

.end
